US04999356
To a stirred mixture, under nitrogen, of 72.3 g of phenylhydrazine hydrochloride in 600 ml of pyridine, cooled in an ice bath, was added, dropwise, 97.1 g of 2,4-difluorobenzoyl chloride, such that the reaction temperature did not exceed 15° C. The reaction mixture was stirred at ambient temperature for about 16 hours. Dilution of the mixture with water formed a precipitate which was collected, dried, and recrystallized from ethyl acetate to yield 98 g (79%) of 2,4-difluorobenzoic acid, 2-phenylhydrazide. Subsequent recrystallization from ethyl acetate afforded the analytical sample, m.p. 171°-173° C.

reactant | phenylhydrazine hydrochloride | 72.3 g | Cl.C1(=CC=CC=C1)NN
reactant | 2,4-difluorobenzoyl chloride | 97.1 g | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | water | O | H2O
solvent | pyridine | 600 ml | N1=CC=CC=C1 | C5H5N
product | 2,4-difluorobenzoic acid, 2-phenylhydrazide | 98 g, 79% | C1(=CC=CC=C1)NNC(C1=C(C=C(C=C1)F)F)=O | C13H10F2N2O
